US04874856
Diphenylmethyl 7-[(Z)-2-(2-Tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-((Z)-1-propenyl)-3-cephem-4-carboxylate
To a mixture of 2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetic acid (873 mg, 1.30 m moles) and dichloromethane (5 ml) was added phsophorous pentachloride (297 ng, 1.43 m moles) at -5° C. The mixture was allowed to stand for 20 min at the same temperature and added dropwise to a solution of diphenylmethyl 7-amino-3-(1-propenyl)-3-cephem-4-carboxylate hydrochloride (443 mg, 1 m mole) and N,O-bis(trimethylsilyl)acetamide (0.74 ml, 4.4 m moles) in dichloromethane (5 ml) at -5° C. The reaction mixture was allowed to stand for 20 min. at the same temperature and poured into ice-water. Extraction of the mixture with ethyl acetate and evaporation of the extracts under reduced pressure gave the crude product as an oil, which was chromatographed on a column of silica gel (eluted with chloroform) to give the title compound as an amorphous powder. Yield 510 mg (48%).

reactant | 2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetic acid | 873 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C43H33N3O3S
reactant | diphenylmethyl 7-amino-3-(1-propenyl)-3-cephem-4-carboxylate hydrochloride | 443 mg | Cl.NC1[C@@H]2N(C(=C(CS2)C=CC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | N,O-bis(trimethylsilyl)acetamide | 0.74 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | Diphenylmethyl 7-[(Z)-2-(2-Tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-((Z)-1-propenyl)-3-cephem-4-carboxylate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C66H53N5O5S2
